US08030489B2
To a mixture of 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate hydrochloride (0.30 g) and methylene chloride (6.0 ml) were added 4-chlorobenzaldehyde (87 mg), sodium acetate (53 mg), and sodium borohydride (215 mg) at room temperature, followed by stirring at room temperature over one night. To a reaction mixture was added a saturated sodium bicarbonate solution under ice-cooling to adjust the pH to about 7, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(4-chlorobenzyl)-L-ornithyl}amino)cyclopentanecarboxylate (0.34 g).

reactant | 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate hydrochloride | 0.30 g | Cl.C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC(C1=CC=CC=C1)=O
reactant | 4-chlorobenzaldehyde | 87 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium acetate | 53 mg | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 215 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 6.0 ml | C(Cl)Cl | CH2Cl2
product | 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(4-chlorobenzyl)-L-ornithyl}amino)cyclopentanecarboxylate | 0.34 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NCC1=CC=C(C=C1)Cl)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC(C1=CC=CC=C1)=O | C34H38ClN3O6
